US04897105
Preparation of 5,7-dimethoxy-2-[(2-trifluoromethylbenzyl)sulfonyl]imino-2H-[1,2,4]-thiadiazolo[2,3-a]pyrimidine (Compound No. 32)
A suspension of 1.0 g of N-(2-trifluoromethylbenzyl) sulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl)thiourea in 20 ml of methanol is cooled at -10°~-5° C., and a solution of 0.12 ml of bromine in 1 ml of methanol is dropwise added to the solution. The temperature of the mixture is gradually raised to room temperature and the mixture is stirred for 2 hours. The crystals are collected by filtration, washed with methanol, dried and recrystallized from acetonitrile to give 0.8 g of the title compound as white crystals.

reactant | N-(2-trifluoromethylbenzyl) sulfonyl-N'-(4,6-dimethoxy-2-pyrimidinyl)thiourea | 1.0 g | FC(C1=C(CS(=O)(=O)NC(=S)NC2=NC(=CC(=N2)OC)OC)C=CC=C1)(F)F | C15H15F3N4O4S2
reactant | bromine | 0.12 ml | BrBr | Br2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | 5,7-dimethoxy-2-[(2-trifluoromethylbenzyl)sulfonyl]imino-2H-[1,2,4]-thiadiazolo[2,3-a]pyrimidine | 0.8 g | COC1=NC=2N(C(=C1)OC)SC(N2)=NS(=O)(=O)CC2=C(C=CC=C2)C(F)(F)F | C15H13F3N4O4S2
